US07456200B2
To a ethanol solution (40 ml) of cyano-acetic acid ethyl ester (9.9 g, 0.1 mol), the mixture solution of sodium hydroxide (4 g, 0.1 mol) in water (40 ml) and 5 M hydroxylamine hydrochloride (20 ml) was added and the reaction mixture was stirred at 50° C. overnight. After being concentrated, the reaction mixture was diluted with water and extrated with ethyl acetate. The organic layer was dried, concentrated again. The residue was purified by column chromatography with 30˜70% ethyl acetate in hexanes to give 3.32 g (22.7%) of (N-Hydroxycarbamimidoyl)-acetic acid ethyl ester as white solid. 1H-NMR(CDCl3) d(ppm): 5.04 (ws, 2H), 4.20 (q, 2H), 3.19 (s, 2H) and 1.30 (t, 3H). Step 2: [5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-acetic acid ethyl ester: To a dichloromethane solution (10 ml) of (N-hydroxycarbamimidoyl)-acetic acid ethyl ester (1.46 g, 10 mmol) and triethylamine, 3-chlorobenzoyl chloride (1.75 g, 10 mmol) was added slowly at 5° C. and the reaction mixture was stirred for 10 min. DMF (8 ml) was added to the reaction mixture was heated to 135° C. for 2 h. Standard work-up, the product was passed column with dichloromethane to give 1.2 g (45%) of [5-(3-chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-acetic acid ethyl ester as pale-yellow oil. 1H-NMR(CDCl3) d(ppm): 8.168 (s, 1H), 8.04 (d, 1H), 7.59 (d, 1H), 7.49 (t, 1H), 4.26 (q, 2H), 3.91 (s, 2H) and 1.31 (t, 3H). Step 3: [5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-acetic acid hydrazide: 5-(3-Chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-acetic acid ethyl ester (0.64 g, 2.4 mmol) was mixed with 37% hydrazine (1.6 ml) in ethabol (10 ml) at 80° C. for 4 h. The reaction mixture was concentrated and diluted with water. The precipitate was filtered, washed with water to give 0.51 g (83.3%) of [5-(3-chloro-phenyl)-[1,2,4]oxadiazol-3-yl]-acetic acid hydrazide.

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | cyano-acetic acid ethyl ester | 0.1 mol, 9.9 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | sodium hydroxide | 0.1 mol, 4 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 5 M, 20 ml | Cl.NO
solvent | water | 40 ml | O | H2O
product | (N-Hydroxycarbamimidoyl)-acetic acid ethyl ester | 3.32 g, 22.7% | C(C)OC(CC(NO)=N)=O | C5H10N2O3
